US04954497
In the same manner as in Example 1, using 5-(3,4-dimethoxybenzoyl)-2-(N-methylanilino)pyridine (500 mg), diethylphosphonoacetic acid morpholide (800 mg) and 60% sodium hydride (150 mg), E-isomer (250 mg) and Z-isomer (212 mg) of 4-[3-(2-(N-methylanilino)-5-pyridyl)-3-(3,4-dimethoxyphenyl)acryloyl]morpholine (Compound No.62) were obtained.

reactant | 5-(3,4-dimethoxybenzoyl)-2-(N-methylanilino)pyridine | 500 mg | COC=1C=C(C(=O)C=2C=CC(=NC2)N(C2=CC=CC=C2)C)C=CC1OC | C21H20N2O3
reactant | diethylphosphonoacetic acid morpholide | 800 mg | C(C)OP(=O)(OCC)CC(=O)N1CCOCC1 | C10H20NO5P
reactant | sodium hydride | 150 mg | [H-].[Na+]
product | 4-[3-(2-(N-methylanilino)-5-pyridyl)-3-(3,4-dimethoxyphenyl)acryloyl]morpholine | 212 mg | CN(C1=CC=CC=C1)C1=NC=C(C=C1)C(=CC(=O)N1CCOCC1)C1=CC(=C(C=C1)OC)OC | C27H29N3O4
